US06800651B2
N-(4-Formylphenyl)-N-(ethanesulfonyl)pyrid-3-ylmethylamine
To a solution of DMSO (0.190 mL, 2.68 mmol) in 4 mL DCM at −78° C. was added oxalyl chloride (0.146 mL, 1.67 mmol) dropwise. After 15 min a solution of N-(4-(hydoxymethyl)phenyl)-N-(ethanesulfonyl)pyrid-3-ylmethylamine (0.241 g, 0.669 mmol) was added via cannula. The reaction was stirred for 30 min and triethylamine (0.932 mL, 6.69 mmol) was added and warmed to 0° C. over 1 h. The mixture was poured into saturated NaHCO3 solution and diluted with ether. The organic layer was washed with H2O and brine, dried over MgSO4, filtered, and concentrated. The residue was chromatographed on silica gel with 5:1 DCM/EtOAc to give 173 mg of a clear oil (72%). 1H NMR: 9.97 (s,1H), 8.50 (dd,J=4.9, 1.5 Hz, 1H), 8.35 (d,J=2.0 Hz, 1H), 7.87 (m,2H), 7.66 (dt,J=7.8, 2.0 Hz, 1H), 7.44 (m,2H), 7.24 (ddd,J=7.8, 4.9, 1.0 Hz, 1H), 4.97 (s,2H), 3.84 (q,J=9.3 Hz, 2H).

reactant | DMSO | 2.68 mmol, 0.190 mL | CS(=O)C | C2H6OS
reactant | oxalyl chloride | 1.67 mmol, 0.146 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N-(4-(hydoxymethyl)phenyl)-N-(ethanesulfonyl)pyrid-3-ylmethylamine | 0.669 mmol, 0.241 g | OCC1=CC=C(C=C1)N(S(=O)(=O)CC)CC=1C=NC=CC1 | C15H18N2O3S
reactant | triethylamine | 6.69 mmol, 0.932 mL | C(C)N(CC)CC | C6H15N
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DCM | 4 mL | C(Cl)Cl | CH2Cl2
solvent | ether | CCOCC | C4H10O
product | N-(4-Formylphenyl)-N-(ethanesulfonyl)pyrid-3-ylmethylamine | 173 mg, 72% | C(=O)C1=CC=C(C=C1)N(S(=O)(=O)CC)CC=1C=NC=CC1 | C15H16N2O3S
